US07745475B2
3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-isopropyl-1H-pyrazol-3-yl)benzamide
3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-isopropyl-1H-pyrazol-3-yl)benzamide (0.33 g, 0.644 mmol) was dissolved in methanol (4 mL) and THF (4 mL) and the flask evacuated and purged with argon (3 times). 10% Palladium on carbon (0.033 g) was added and the flask further evacuated and finally purged with hydrogen gas. The reaction mixture was stirred at ambient temperature for 20 hours. The reaction mixture was evacuated and purged with nitrogen (3 times). The catalyst was filtered off through celite, and the filtrate concentrated in vacuo. The residue was chromatographed on silica eluting with a gradient of 0-100% ethyl acetate in isohexane to give the desired compound (0.15 g);

reactant | 3-[4-(Azetidin-1-ylcarbonyl)-2-chlorophenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-isopropyl-1H-pyrazol-3-yl)benzamide | 0.644 mmol, 0.33 g | N1(CCC1)C(=O)C1=CC(=C(OC=2C=C(C(=O)NC3=NN(C=C3)C(C)C)C=C(C2)O[C@H](CO)C)C=C1)Cl | C26H29ClN4O5
solvent | methanol | 4 mL | CO | CH4O
product | 3-[4-(Azetidin-1-ylcarbonyl)phenoxy]-5-[(1S)-2-hydroxy-1-methylethoxy]-N-(1-isopropyl-1H-pyrazol-3-yl)benzamide | 0.15 g | N1(CCC1)C(=O)C1=CC=C(OC=2C=C(C(=O)NC3=NN(C=C3)C(C)C)C=C(C2)O[C@H](CO)C)C=C1 | C26H30N4O5
